US07157491B2
4-(4-Hydroxyphenyl)-benzofuran-7-carbaldehyde
To a 100 ml round bottom flask was added 4-(4-methoxyphenyl)-benzofuran-7-carbaldehyde (480 mg, 1.90 mmol), CH2Cl2 (12 ml), and the solution was cooled to −78° C. Then BBr3 (3.8 ml 1.0 M in CH2Cl2, 3.8 mmol) was added dropwise and the reaction was warmed to room temperature. After 1.5 h the reaction was quenched with water (15 ml), extracted with ether (3×), passed through a silica plug and concentrated to 160 mg (35%) of product as a foam. Chromatography (1:1 EtOAc:hex.) produced an analytical sample: mp 184–185° C.; 1H NMR (500 MHz, DMSO-d6): δ 6.96 (2H, d, J=8.8 Hz), 7.20 (1H, d, J=2.5 Hz), 7.52 (1H, d, J=7.7 Hz), 7.58 (2H, d, J=8.5 Hz), 7.89 (1H, d, J=7.7 Hz), 8.24 (1H, d, J=2.2 Hz), 9.84 (1H, s), 10.35 (1H, s); HRMS (ESI+) m/z 239.07027 ([M+H]+).

reactant | 4-(4-methoxyphenyl)-benzofuran-7-carbaldehyde | 1.90 mmol, 480 mg | COC1=CC=C(C=C1)C1=CC=C(C2=C1C=CO2)C=O | C16H12O3
reactant | BBr3 | 3.8 mmol, 1.0 M, 3.8 ml | B(Br)(Br)Br | BBr3
solvent | CH2Cl2 | 12 ml | C(Cl)Cl | CH2Cl2
product | 4-(4-Hydroxyphenyl)-benzofuran-7-carbaldehyde | OC1=CC=C(C=C1)C1=CC=C(C2=C1C=CO2)C=O | C15H10O3
